US07101871B2
Step A: (2R,5S)-2,5-Dihydro-3,6-dimethoxy-2-(2′-fluoro-4′-(trifluoromethyl)benzyl)-5-isopropylpyrazine
To a solution of 3.32 g (18 mmol) of commercially available (2S)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine in 100 mL of tetrahydrofuran at −70° C. was added 12 mL (19 mmol) of a 1.6M solution of butyllithium in hexanes. After stirring at this temperature for 20 min, 5 g (19.5 mmol) of 2-fluoro-4-trifluoromethylbenzyl bromide in 20 mL of tetrahydrofuran was added and stirring was continued for 3 h before warming the reaction to ambient temperature. The reaction was quenched with water, concentrated in vacuo, and extracted with ethyl acetate. The combined organic phase was washed with brine, dried, and concentrated in vacuo. Purification by flash chromatography (silica gel, 0–5% ethyl acetate in hexanes) afforded the title compound.

reactant | (2S)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine | COC=1[C@@H](N=C(CN1)OC)C(C)C | C9H16N2O2
reactant | butyllithium | C(CCC)[Li]
reactant | 2-fluoro-4-trifluoromethylbenzyl bromide | 19.5 mmol, 5 g | FC1=C(CBr)C=CC(=C1)C(F)(F)F | C8H5BrF4
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (2R,5S)-2,5-Dihydro-3,6-dimethoxy-2-(2′-fluoro-4′-(trifluoromethyl)benzyl)-5-isopropylpyrazine | COC=1[C@H](N=C([C@@H](N1)C(C)C)OC)CC1=C(C=C(C=C1)C(F)(F)F)F | C17H20F4N2O2
